US05098898
1,2-O-Dilauroyl-3-benzylglycerol
3-O-Benzylglycerol (7 g) is reacted with 18.5 g of lauroyl chloride in the same manner as in Starting Material Synthesis 2. Recrystallization of the crude crystals from ethanol gives 16 g of white crystals. Melting point: 30°-31° C.

reactant | 3-O-Benzylglycerol | 7 g | C(C1=CC=CC=C1)OCC(CO)O | C10H14O3
reactant | lauroyl chloride | 18.5 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | 1,2-O-Dilauroyl-3-benzylglycerol | 16 g | C(CCCCCCCCCCC)(=O)OCC(OC(CCCCCCCCCCC)=O)COCC1=CC=CC=C1 | C34H58O5
